US07157487B2
In THF (8.0 ml) was dissolved methyl 1-isopropylindole-3-carboxylate (387.6 mg, 1.784 mmol). To the resulting solution was added 0.25N NaOH (8.0 ml). The resulting mixture was stirred at 50° C. for 18 hours. After cooling to room temperature, the reaction mixture was acidified with 1N HCl (4.5 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give 1-isopropylindole-3-carboxylic acid (327.8 mg, 90%) as a pale pink amorphous substance.

reactant | methyl 1-isopropylindole-3-carboxylate | 1.784 mmol, 387.6 mg | C(C)(C)N1C=C(C2=CC=CC=C12)C(=O)OC | C13H15NO2
reactant | NaOH | 0.25N, 8.0 ml | [OH-].[Na+]
reactant | HCl | 1N, 4.5 ml | Cl | ClH
solvent | THF | 8.0 ml | C1CCOC1 | C4H8O
product | 1-isopropylindole-3-carboxylic acid | 327.8 mg, 90% | C(C)(C)N1C=C(C2=CC=CC=C12)C(=O)O | C12H13NO2
